US05519038
Pyridine-2,4-dicarboxylic acid dibenzyl ester
30g of pyridine-2,4-dicarboxylic acid are converted into the acid chloride using 30 ml of thionyl chloride analogously to Example 1 and the acid chloride is reacted with 43.8 g of benzyl alcohol. The product is recrystallized from diisopropyl ether.

reactant | pyridine-2,4-dicarboxylic acid | N1=C(C=C(C=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | benzyl alcohol | 43.8 g | C(C1=CC=CC=C1)O | C7H8O
product | Pyridine-2,4-dicarboxylic acid dibenzyl ester | C(C1=CC=CC=C1)OC(=O)C1=NC=CC(=C1)C(=O)OCC1=CC=CC=C1 | C21H17NO4
